US07906517B2
2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid (2.5 g) is dissolved in tetrahydrofuran (25 ml), and thereto are added diphenoxyphosphinylazide (1.34 ml), triethylamine (174 ml) and benzyl alcohol (1.3 ml) and the mixture is heated at 60° C. overnight with stirring. The reaction solution is cooled to room temperature, and thereto are added a 1N-hydrochloric acid and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→9:1→4:1) to give benzyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate (2.66 g). MS (m/z): 707/709 [M+H]+

reactant | 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-benzoic acid | 2.5 g | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C(=O)O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C22H13BrF9N3O2
reactant | diphenoxyphosphinylazide | 1.34 ml | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)N=[N+]=[N-] | C12H10N3O3P
reactant | benzyl alcohol | 1.3 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 174 ml | C(C)N(CC)CC | C6H15N
product | benzyl (2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-carbamate | 2.66 g | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC2=C(C=CC(=C2)C(F)(F)F)NC(OCC2=CC=CC=C2)=O)C=C(C1)C(F)(F)F)(F)F | C29H20BrF9N4O2
